US06734302B2
1-{4-[4,5-Bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4,5-dihydro-imidazole-1-carbonyl]-piperazin-1-yl}-propan-2-one
The compound was prepared by the treatment of [4,5-bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4,5-dihydro-imidazol-1-yl]piperazin-1-yl-methanone (example 10 g) with chloroacetone and triethylamine at 40° C. overnight. HR-MS (ES, m/z) calculated for C33H36N4O4Cl2[(M+H)+]623.2187, observed 623.2194.

reactant | [4,5-bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4,5-dihydro-imidazol-1-yl]piperazin-1-yl-methanone | 10 g | ClC1=CC=C(C=C1)C1N=C(N(C1C1=CC=C(C=C1)Cl)C(=O)N1CCNCC1)C1=C(C=C(C=C1)OC)OC(C)C | C30H32Cl2N4O3
reactant | chloroacetone | ClCC(C)=O | C3H5ClO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-{4-[4,5-Bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4,5-dihydro-imidazole-1-carbonyl]-piperazin-1-yl}-propan-2-one | ClC1=CC=C(C=C1)C1N=C(N(C1C1=CC=C(C=C1)Cl)C(=O)N1CCN(CC1)CC(C)=O)C1=C(C=C(C=C1)OC)OC(C)C | C33H36Cl2N4O4
